US08809539B2
An aqueous solution (50 mL) of sodium hydroxide (1.7 g, 0.043 mol) is added to a stirred solution of 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}piperidine-4,4-dicarboxylic acid dibenzyl ester (18.3 g, 0.027 mol) in tetrahydrofuran (150 mL). The reaction mixture is stirred overnight at room temperature and then concentrated under reduced pressure. The residue is acidified to pH ˜6 with diluted hydrochloric acid to give a solid which is filtered and washed with diethylether (100 mL) to furnish 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}piperidine-4,4-dicarboxylic acid mono benzyl ester.

reactant | sodium hydroxide | 0.043 mol, 50 mL, 1.7 g | [OH-].[Na+]
reactant | 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}piperidine-4,4-dicarboxylic acid dibenzyl ester | 0.027 mol, 18.3 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)OCC1=CC=CC=C1 | C42H36FN3O5
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}piperidine-4,4-dicarboxylic acid mono benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O | C35H30FN3O5
